US04757156
Semicontinuous solvent-free preparation of tributylphosphine
A solution was prepared in a 300 l-autoclave from 180 kg butene-1 and 2.8 kg 2,2'-azobis-(2-methylbutyronitrile) (VAZO® 67). The solution was metered at a rate of about 30 l/h into the upper reaction zone heated to 90° C. of the pressure pipe described in Example 2. At the same time, PH3 (about 2.1 m3 /h) was introduced into the high pressure column. A pressure of 36 bars was found to establish. The heating and/or cooling jacket segments forming part of the reaction tube were controlled so that the reaction temperature was prevented from exceeding 90° C. The reaction solution was metered into the vessel with stirrer heated to 85° C. After 9.1 hours, the butene/initiator-reservoir was found to be empty and the introduction of PH3 into the pressure pipe was stopped. The reaction mixture in the stirring vessel was allowed to undergo post-reaction over a period of 7 hours at 11 bars, then cooled and the pressure was released. 194 kg crude product was obtained. 31P-NMR-spectroscopy gave the following results:

reactant | butene-1 | 180 kg | CCC=C | C4H8
reactant | 2,2'-azobis-(2-methylbutyronitrile) | 2.8 kg | N(=NC(C#N)(CC)C)C(C#N)(CC)C | C10H16N4
reactant | PH3 | P | H3P
reactant | butene | C=CCC | C4H8
product | tributylphosphine | C(CCC)P(CCCC)CCCC | C12H27P
